US05173497
Tetramethylethylenediamine (TMEDA) (2.3 ml) and s-butyllithium (1.3M in cyclohexane, 11.7 ml) were added to anhydrous ether (8.0 ml) at -78° C. under nitrogen. A solution of 5-bromo-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole (3.57 g) in anhydrous ether (10 ml) was added to the resulting reaction mixture at -78° C. via canula and stirred at this temperature for 1 hour and at -20° C. for 1 hour. The solution was then added via canula to a -78° C. solution of diethyloxalate (5.2 ml) in anhydrous ether (30 ml) under N2. The resulting mixture was held at -78° C. for 30 min, -20° C. for 2 hours and room temperature for 30 min. Saturated ammonium chloride solution (10 ml) was added and the organic and aqueous phases separated. The organic phase was washed twice with brine, dried (Na 2 SO4), filtered and concentrated under vacuum. The crude residue was purified using preparative high performance liquid chromatography (HPLC), (silica gel, sample loaded and eluted with 2% methanol in ethyl acetate). Concentration of the appropriate fractions afforded 1.6 g of 1,2,3,3a,8,8a-hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, ethyl ester, as an oil.

reactant | Tetramethylethylenediamine | 2.3 ml | CN(CCN(C)C)C | C6H16N2
reactant | s-butyllithium | 1.3M, 11.7 ml | C(C)(CC)[Li]
reactant | 5-bromo-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole | 3.57 g | BrC=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C13H17BrN2
reactant | diethyloxalate | 5.2 ml | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 8.0 ml | CCOCC | C4H10O
product | 1,2,3,3a,8,8a-hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, ethyl ester | 1.6 g | O=C(C(=O)OCC)C=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C17H22N2O3
